US03947470
2-[4-(3-Diethylaminopropoxy)benzoyl]-3-phenylbenzofuran
2-[4-(3-Bromopropoxy)benzoyl]-3-phenylbenzofuran (2.5 g., 5.7 mmol.) is refluxed for 6 hours in 50 ml. of ethanol containing 20 ml. of diethylamine. The reaction mixture is concentrated under reduced pressure and the residue is dissolved in chloroform. The chloroform solution is washed with water, saturated aqueous sodium chloride solution and water, dried (MgSO4) and concentrated to give the title compound.

reactant | 2-[4-(3-Bromopropoxy)benzoyl]-3-phenylbenzofuran | 5.7 mmol, 2.5 g | BrCCCOC1=CC=C(C(=O)C=2OC3=C(C2C2=CC=CC=C2)C=CC=C3)C=C1 | C24H19BrO3
reactant | diethylamine | C(C)NCC | C4H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[4-(3-Diethylaminopropoxy)benzoyl]-3-phenylbenzofuran | C(C)N(CCCOC1=CC=C(C(=O)C=2OC3=C(C2C2=CC=CC=C2)C=CC=C3)C=C1)CC | C28H29NO3
